* SPICE Netlist for the given schematic

VDD 3 0 DC VDD
VIN 1 0 DC Vin

M1 5 1 0 0 NMOS
M2 5 2 3 3 PMOS

R1 3 2 R1_value
R2 2 5 R2_value

* Specify models for NMOS and PMOS if necessary
.model NMOS NMOS
.model PMOS PMOS

.end